US06706725B1
d) (E)-7-(5-Bromo-2-thienyl)-3-ethyloct-6-en-3-ol
3.3 g of ethyl (E)-5-(5-bromo-2-thienyl)-4-hexenoate (10.9 mmol) are dissolved in 50 mL of ethyl ether. 22 mL of 2.0 M ethylmagnesium chloride solution (44 mmol) are then added dropwise and the reaction medium is stirred at room temperature for 30 minutes. After treatment with saturated ammonium chloride solution, extraction with ethyl ether and then drying and evaporation of the solvents from the organic phase, the residue obtained is purified by chromatography on a column of silica. A colourless oil is obtained (m=2.4 g; Y=70%).

reactant | ethyl (E)-5-(5-bromo-2-thienyl)-4-hexenoate | 10.9 mmol, 3.3 g | BrC1=CC=C(S1)/C(=C/CCC(=O)OCC)/C | C12H15BrO2S
reactant | ethylmagnesium chloride | 44 mmol, 2.0 M, 22 mL | C(C)[Mg]Cl
reactant | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | (E)-7-(5-Bromo-2-thienyl)-3-ethyloct-6-en-3-ol | BrC1=CC=C(S1)/C(=C/CCC(CC)(O)CC)/C | C14H21BrOS
